US08440662B2
Step 8: 4-(3-{4-[8-(3-Hydroxy-phenyl)-4-morpholin-4-yl-quinazolin-2-yl]-phenyl}-ureido)-N,N-dimethyl-benzamide
To a 50 mL round bottom flask, 3-(2-chloro-4-morpholin-4-ylquinazolin-8-yl)-phenol (80 mg, 0.000234 mol), N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide (114 mg, 0.00028 mol), cesium carbonate (153 mg, 0.00047 mol), DMF (7 mL) and water (1 mL) were added. The reaction mixture was degassed with nitrogen for 5-10 min. To the same reaction flask, Pd(PPh3)2Cl2 (8 mg, 0.0000011 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 2-5% MeOH in chloroform) to yield the title compound [15 mg, 6%]. 1H NMR: (300 MHz, DMSO-d6): δ 9.49 (s, 1H), 9.00 (s, 1H), 8.97 (s, 1H), 8.31 (d, J=8.4 Hz, 2H), 8.00 (d, J=8.4 Hz, 1H), 7.82 (d, J=7.2 Hz, 1H), 7.50-7.59 (m, 5H), 7.29-7.35 (m, 3H), 7.16-7.22 (m, 2H), 6.83 (d, J=8.1 Hz, 1H), 3.83 (m, 8H), 2.97 (s, 6H); LC-MS (ESI): Calculated mass: 588.2; Observed mass: 588.8 [M+H]+ (RT: 0.64 min).

reactant | 3-(2-chloro-4-morpholin-4-ylquinazolin-8-yl)-phenol | 0.000234 mol, 80 mg | ClC1=NC2=C(C=CC=C2C(=N1)N1CCOCC1)C=1C=C(C=CC1)O | C18H16ClN3O2
reactant | N,N-dimethyl-4-{3-{4-(4,4,5,5,-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide | 0.00028 mol, 114 mg | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C22H28BN3O4
reactant | cesium carbonate | 0.00047 mol, 153 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.0000011 mol, 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
product | 4-(3-{4-[8-(3-Hydroxy-phenyl)-4-morpholin-4-yl-quinazolin-2-yl]-phenyl}-ureido)-N,N-dimethyl-benzamide | 15 mg, 6% | OC=1C=C(C=CC1)C=1C=CC=C2C(=NC(=NC12)C1=CC=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O)N1CCOCC1 | C34H32N6O4
